### PR TITLE
Add Erdős Problem 37 (lacunary sets are not essential components), link the formal disproof

### LINKED ISSUE #6171: Erdős Problem 37
### What is the Erdős problem?

https://www.erdosproblems.com/37

We say that $A\subset \mathbb{N}$ is an essential component if $d_s(A+B)>d_s(B)$ for every $B\subset \mathbb{N}$ with $0<d_s(B)<1$ where $d_s$ is the Schnirelmann density. Can a lacunary set $A\subset\mathbb{N}$ be an essential component?

Status: disproved (Lean). Ruzsa showed an essential component has $|A \cap [1,N]| \geq (\log N)^{1+c}$; a formal disproof exists in plby/lean-proofs (`Erdos37.not_erdos_37`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6171.

### What changed
Adds `FormalConjectures/ErdosProblems/37.lean` with `IsEssentialComponent` (via Mathlib's `schnirelmannDensity`) and `IsLacunarySet` (infinite, consecutive elements grow by a factor `q > 1`), and:
- `erdos_37` (`research solved`, `answer(False)`): no lacunary set is an essential component (Ruzsa [Ru87]). Linked to plby/lean-proofs `Erdos37.not_erdos_37` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_37.variants.ruzsa_lower` / `erdos_37.variants.ruzsa_sharp` (`research solved`): Ruzsa's `(log N)^{1+c}` lower bound for essential components and its sharpness.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos37.not_erdos_37` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's lacunarity is stated on the increasing enumeration `Nat.nth` of the positive part; the pairwise form here implies it):

<details>
<summary>Bridge</summary>

```lean
open scoped Classical Pointwise

namespace Bridge37

lemma essential_iff (A : Set ℕ) :
    Erdos37.IsEssentialComponent A ↔ Erdos37Plby.IsEssentialComponent A := by
  unfold Erdos37.IsEssentialComponent Erdos37Plby.IsEssentialComponent Erdos37Plby.sd
  constructor
  · intro h B h1 h2
    convert h B (by convert h1) (by convert h2)
  · intro h B h1 h2
    convert h B (by convert h1) (by convert h2)

lemma lacunary_of (A : Set ℕ) (hA : Erdos37.IsLacunarySet A) : Erdos37Plby.IsLacunary A := by
  obtain ⟨hinf, q, hq, h⟩ := hA
  have hpos : (Set.ofPred fun n => n ∈ Erdos37Plby.positivePart A).Infinite := by
    have : (Set.ofPred fun n => n ∈ Erdos37Plby.positivePart A) = A \ {0} := by
      ext n
      simp only [Set.mem_ofPred_eq, Erdos37Plby.positivePart, Set.mem_sdiff,
        Set.mem_singleton_iff, Nat.pos_iff_ne_zero]
      tauto
    rw [this]
    exact hinf.sdiff (Set.finite_singleton 0)
  refine ⟨hpos, q, hq, fun i => ?_⟩
  have h1 := Nat.nth_mem_of_infinite hpos i
  have h2 := Nat.nth_mem_of_infinite hpos (i + 1)
  have hlt := Nat.nth_strictMono hpos (Nat.lt_succ_self i)
  exact h _ h1.2 _ h2.2 hlt

theorem erdos_37_bridge : type_of% Erdos37.erdos_37 := by
  show False ↔ _
  simp only [false_iff]
  rintro ⟨A, hlac, hess⟩
  exact Erdos37Plby.not_erdos_37 A (lacunary_of A hlac) ((essential_iff A).1 hess)

end Bridge37
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«37»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/37.lean [hunk 1]
```diff
@@ -0,0 +1,96 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/37.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — COMMENTED** [review]
`IsEssentialComponent` duplicates 1146.lean's with a different convention (A + B vs (A ∪ {0}) + (B ∪ {0})); `IsLacunarySet` is the Set version of `NumberTheory/Lacunary.lean`'s `IsLacunary`
Let's avoid redefining stuff
